US09376443B2
1-[6-(5-Amino-7-chloro[1,2,3]triazolo[4,5-d]pyrimidin-3-ylmethyl)-pyridin-2-yl]-pyrrolidin-2-one
A suspension of 1-{6-[(2,5-diamino-6-chloro-pyrimidin-4-ylamino)methyl]pyridin-2-yl}pyrrolidin-2-one (2.10 g, 6.29 mmol) in glacial acetic acid (6 mL) and EtOH (24 mL) at 0° C. was treated with a solution of sodium nitrite (0.564 g, 8.17 mmol) in water (1.5 mL), stirred for 2 h, warmed to room temperature and the resulting precipitate filtered and dried to give the title compound (1.67 g, 77%) as an off-white solid; LC-MS retention time 1.99 min, (M+H)+ 345.

reactant | 1-{6-[(2,5-diamino-6-chloro-pyrimidin-4-ylamino)methyl]pyridin-2-yl}pyrrolidin-2-one | 6.29 mmol, 2.10 g | NC1=NC(=C(C(=N1)NCC1=CC=CC(=N1)N1C(CCC1)=O)N)Cl | C14H16ClN7O
reactant | sodium nitrite | 8.17 mmol, 0.564 g | N(=O)[O-].[Na+]
solvent | acetic acid | 6 mL | C(C)(=O)O | C2H4O2
solvent | EtOH | 24 mL | CCO | C2H6O
solvent | water | 1.5 mL | O | H2O
product | 1-[6-(5-Amino-7-chloro[1,2,3]triazolo[4,5-d]pyrimidin-3-ylmethyl)-pyridin-2-yl]-pyrrolidin-2-one | 1.67 g, 77% | NC=1N=C(C2=C(N1)N(N=N2)CC2=CC=CC(=N2)N2C(CCC2)=O)Cl | C14H13ClN8O
